US06660744B1
1-(1,4-dioxaspiro[4.5]dec-8-yl)-3-(6-phenoxy-3-pyridyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (Intermediate AH) (1.00 g, 0.0022 mol) was triturated in acetone (20 mL) and 5N hydrochloric acid solution was added dropwise. The mixture was stirred at ambient temperature for 20 hours and neutralized with saturated sodium bicarbonate solution. The precipitate was collected by filtration, washed with water twice and dried to give 4-[4-amino-3-(6-phenoxy-3-pyridyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-cyclo-hexanone as an off-white solid (purity 94% (HPLC), 0.90 g, 0.0022 mol) ):

reactant | 1-(1,4-dioxaspiro[4.5]dec-8-yl)-3-(6-phenoxy-3-pyridyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0022 mol, 1.00 g | O1CCOC12CCC(CC2)N2N=C(C=1C2=NC=NC1N)C=1C=NC(=CC1)OC1=CC=CC=C1 | C24H24N6O3
reactant | hydrochloric acid | 5N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 4-[4-amino-3-(6-phenoxy-3-pyridyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-cyclo-hexanone | NC1=C2C(=NC=N1)N(N=C2C=2C=NC(=CC2)OC2=CC=CC=C2)C2CCC(CC2)=O | C22H20N6O2
